*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHSD630ELL121MJC5S
*//   Date        : 2021/07/20
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHSD630ELL121MJC5S_20deg-C 1 2

C1 4 2 8.52e-05
C2 5 2 1.80e-05
C3 6 2 1.41e-05
R1 3 4 1.46e-02
R2 4 5 3.20e-01
R3 5 6 9.59e+00
L1 1 3 5.20e-09

.ENDS
*$
